US07514419B2
A solution of 1-(2,6-dimethyl-4-triisopropylsilanyloxyphenyl)-1-(4′-fluoro-3′-isopropenylphenyl)methanol (1.2 g, 2.71 mmol) and Pd/C (0.1 g, 10%) in EtOH/HOAc (9:1, 10 mL) was stirred under a H2 atmosphere for 16 h. The reaction mixture was filtrated through a plug of Celite and concentrated to afford the crude 3,5-dimethyl-4-(4′-fluoro-3′-iso-propylbenzyl)triisopropylsilanoxybenzene that was used for the next step without further purification.

reactant | 1-(2,6-dimethyl-4-triisopropylsilanyloxyphenyl)-1-(4′-fluoro-3′-isopropenylphenyl)methanol | 2.71 mmol, 1.2 g | CC1=C(C(=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)C)C(O)C1=CC(=C(C=C1)F)C(=C)C | C27H39FO2Si
solvent | EtOH HOAc | 10 mL | CCO.CC(=O)O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 3,5-dimethyl-4-(4′-fluoro-3′-iso-propylbenzyl)triisopropylsilanoxybenzene | CC=1C=C(C=C(C1CC1=CC(=C(C=C1)F)C(C)C)C)O[Si](C(C)C)(C(C)C)C(C)C | C27H41FOSi
